US05929117
3-(3,4-Dimethoxyphenyl)-3-naphth-2-ylacrylonitrile was prepared analogously to methyl 3,3-bis-(3',4'-dimethoxyphenyl)acrylate using 2-(3,4-dimethoxybenzoyl)naphthalene (2.9 g, 10 mmol), diethylcyanomethylphosphonate (1.8 mL, 11 mmol) and lithium hexamethyldisilazide (8.5 mL, 11 mmol, 1.3M) with a reaction time of 1 hour at reflux. The crude product was purified by chromatography (silica gel, methylene chloride) to afford 2.93 g (93%) of a mixture of the E and Z isomers as a white solid: mp 121-123° C.; 1H NMR (CDCl3) δ 8.11-6.78 (m, 20H), 5.76 (s, 1H), 5.75 (s, 1H), 3.96 (s, 3H), 3.92 (s, 3H), 3.85 (s, 3H), 3.80 (s, 3H); 13C NMR (CDCl3) δ 162.7, 162.7, 151.2, 150.6, 148.9, 148.7, 136.6, 134.5, 134.0, 133.8, 132.8, 131.5, 129.7, 129.4, 129.0, 128.6, 128.6, 128.3, 128.1, 127.7, 127.7, 127.4, 127.2, 126.8, 126.6, 125.4, 123.2, 122.2, 118.4, 118.2, 112.7, 111.1, 110.8, 93.9, 93.4, 56.0, 56.0, 55.9; Anal. Calcd for C21H17NO2. Theoretical: C, 79.98; H, 5.43; N, 4.44. Found: C, 79.90; H, 5.65; N, 4.46.

reactant | methyl 3,3-bis-(3',4'-dimethoxyphenyl)acrylate | COC=1C=C(C=CC1OC)C(=CC(=O)OC)C1=CC(=C(C=C1)OC)OC | C20H22O6
reactant | 2-(3,4-dimethoxybenzoyl)naphthalene | 10 mmol, 2.9 g | COC=1C=C(C(=O)C2=CC3=CC=CC=C3C=C2)C=CC1OC | C19H16O3
reactant | diethylcyanomethylphosphonate | 11 mmol, 1.8 mL | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium hexamethyldisilazide | 11 mmol, 1.3M, 8.5 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
product | 3-(3,4-Dimethoxyphenyl)-3-naphth-2-ylacrylonitrile | COC=1C=C(C=CC1OC)C(=CC#N)C1=CC2=CC=CC=C2C=C1 | C21H17NO2
